US07601856B2
A solution of tert-butyl [2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate (0.10 g) in 1:1 trifluoroacetic acid:dichloromethane (5 mL) was stirred at room temperature for 30 min and then concentrated to provide N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide (52 mg) as its trifluoroacetic acid salt. MS (ESI) m/z 259 ([M+H]+).

reactant | tert-butyl [2-oxo-2-(7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylamino)ethyl]carbamate | 0.10 g | O=C(CNC(OC(C)(C)C)=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C20H26N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide | 52 mg | C1=C(C=CC=2OC3=C(C21)CCCCC3)NC(CN)=O | C15H18N2O2
